US08017809B2
Bis(4,4′-(3,4-difluorophenyl-N,N-dimethylaminoethoxyboryl)benzyl) ether
The entitled compound (15 mg) was obtained by allowing 20 mg of dimethylethanolamine to act on 49 mg of bis(4,4′-(3,4-difluorophenyl-hydroxyboryl)benzyl) ether in 0.6 mL of ethanol.

reactant | dimethylethanolamine | 20 mg | CN(CCO)C | C4H11NO
reactant | bis(4,4′-(3,4-difluorophenyl-hydroxyboryl)benzyl) ether | 49 mg | FC=1C=C(C=CC1F)B(O)C(C1=CC=CC=C1)OC(C1=CC=CC=C1)B(O)C1=CC(=C(C=C1)F)F | C26H20B2F4O3
solvent | ethanol | 0.6 mL | C(C)O | C2H6O
product | Bis(4,4′-(3,4-difluorophenyl-N,N-dimethylaminoethoxyboryl)benzyl) ether | FC=1C=C(C=CC1F)B(OCCN(C)C)C(C1=CC=CC=C1)OC(C1=CC=CC=C1)B(OCCN(C)C)C1=CC(=C(C=C1)F)F | C34H38B2F4N2O3
